US08664401B2
Step B) Ethyl (2R)-4-(3-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate
Cesium carbonate (1.50 g, 4.60 mmol) was added to a solution of 3-fluoro-4-iodopyridin-2(1H)-one (354 mg, 1.48 mmol) and ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (595 mg, 2.07 mmol in THF (25 mL). The resulting suspension was heated to 50° C. and stirred overnight. The reaction was heated to 70° C. and stirred at this temperature overnight. The reaction was filtered through celite (−1 inch), and the filter pad was washed with ethyl acetate (2×30 ml). The combined filtrates were concentrated and the crude was purified via flash chromatography on an Analogix SF15-24 g column and an eluant of ethyl acetate in heptane (50-100%) to afford the title compounds as a clear gum (366 mg, 55.5%). LC-MS m/z 445.9 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.35 (t, J=7.12 Hz, 3H) 1.76 (s, 3H) 2.43-2.56 (m, 2H) 3.11 (s, 3H) 3.97-4.10 (m, 1H) 4.20-4.38 (m, 3H) 6.50 (dd, 1H) 6.75-6.98 (m, 1H).

reactant | Cesium carbonate | 4.60 mmol, 1.50 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-fluoro-4-iodopyridin-2(1H)-one | 1.48 mmol, 354 mg | FC=1C(NC=CC1I)=O | C5H3FINO
reactant | ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | BrCCC(C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Ethyl (2R)-4-(3-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 366 mg, 55.5% | FC=1C(N(C=CC1I)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O | C13H17FINO5S
